US08563760B2
(12-Bromododecyloxy)(tert-butyl)diphenylsilane
1-Bromododecanol (2.511 g, 9.47 mmol), tert-butyldiphenylsilylchloride (2.66 mL, 15.15 mmol), and imidazole (1.418 g, 20.83 mmol) were dissolved in dry DMF (20 mL) and the resulting mixture was stirred under nitrogen for 3 h at room temperature. Upon completion of reaction, water (15 mL) and diethyl ether (25 mL) were added, the two layers were separated and the water layer was extracted with diethyl ether (3×25 mL). The combined organic extracts were washed with water, brine, dried over MgSO4, filtered and filtrate evaporated. The crude was purified by silica gel column chromatography using 100% hexane to 5% ethyl acetate/hexane as eluent to afford the title product as a clear thick oil (3.57 g, 75%). 1H NMR (CDCl3): δ7.66 (m, 4H), 7.39 (m, 6H), 3.62 (t, 2H, J=6.5 Hz), 3.40 (t, 2H, J=6.9 Hz), 1.85 (m, 2H), 1.54 (m, 2H), 1.44-1.25 (m, 16H), 1.04 (s, 9H). m/z (APCI) 505.37 (M++1).

reactant | 1-Bromododecanol | 9.47 mmol, 2.511 g | BrC(CCCCCCCCCCC)O | C12H25BrO
reactant | tert-butyldiphenylsilylchloride | 15.15 mmol, 2.66 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 20.83 mmol, 1.418 g | N1C=NC=C1 | C3H4N2
reactant | water | 15 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | (12-Bromododecyloxy)(tert-butyl)diphenylsilane | 3.57 g, 75% | BrCCCCCCCCCCCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H43BrOSi
